Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfa(Sulfonamide Antibiotics) / lidocaine / novocaine
 
Attending: ___.
 
Chief Complaint:
Solitary Pulmonary Nodule 
 
Major Surgical or Invasive Procedure:
___ - L VATS Wedge lingular biopsy

 
History of Present Illness:
Ms ___ is a ___ former 100 Pack year smoker (quit ___ years 
ago) and history of direct exposure to asbestos who has been 
followed for a lingular nodule found incidentally on ___ CT 
___. She as been followed and has been stable in size ___ 
and most recently ___.  At her last visit, given the 
irregular margins and her smoking history, she was sent for 
PET/CT and PFTs.

Overall, the patient reports she is in her usual state of health 
today. She has stable dyspnea on exertion and reports that she 
can not walk more than ___ a city block and can not tolerate 
stairs. This appears chronic but has slowly worsened over the 
years.  She had 3 bouts of pneumonia last year, and she reports 
she was admitted briefly for one episode.  She denies any 
fevers, chills, sweats presently.  She reports no weight loss.  
Denies hemoptysis.  
 
Past Medical History:
Hypothyroidism
HTN
HLD
Chronic UTI on daily cephalexin
GERD
OSA on CPAP at night
Migraine
Basal Cell Carcinoma
OA s/p L ankle fusion ___

 
Social History:
___
Family History:
Mother- CHF, COPD
Father- lung cyst, open heart surgery 

 
Physical Exam:
Afebrile, VSS 
General: well appearing, NAD 
HEENT: normocephalic, atraumatic, no scleral icterus 
Resp: breathing comfortably on room air, thoracic incisions 
clean, dry, intact 
CV: regular rate and rhythm on monitor 
Abdomen: soft, NT, ND

 
Brief Hospital Course:
The patient presented to the Operating Room on ___ for a Left 
VATS Wedge Biopsy. The procedure occurred without complication. 
For more information about the procedure please refer to the 
operative report. The patient was transferred to the PACU in the 
immediate post operative period, and when appropriate, the 
patient was transferred to the floor. Pain was initially managed 
with IV pain control until the patient was tolerating PO. Diet 
was advanced in a stepwise fashion after the patient had return 
of bowel function until regular diet was tolerated without 
difficulty. The patient was discharged home on POD 2. At the 
time of discharge, the patient was urinating and stooling 
normally, pain was controlled with oral pain medication, and the 
patient was out of bed to ambulate without assistance. The 
patient was discharged home with plan to follow up with Dr. 
___ in clinic in 2 weeks with a chest xray prior to 
appointment.
 

 
Medications on Admission:
LISINOPRIL-HYDROCHLOROTHIAZIDE 20 MG-12.5 MG TAB
(LISINOPRIL/HYDROCHLOROTHIAZIDE) Take 2 tablets by mouth daily 
AMLODIPINE 5 MG TAB Take 1 tablet by mouth daily 
ALPRAZOLAM 1 MG TAB Take 1 tablet by mouth at bedtime 
LIDOCAINE 5 % OINTMENT Apply a small amount to the affected area
5 times a day and before intercourse 
TROSPIUM 20 MG TAB Take 1 tablet by mouth daily 
OMEPRAZOLE 20 MG CAP, DELAYED RELEASE TAKE 1 CAPSULE 30 minutes
before breakfast and dinner 
KETOCONAZOLE 2 % SHAMPOO Shampoo 5 minutes 2 to 5 times per week
or as directed 
LEVOTHYROXINE 75 MCG TAB Take 1 tablet by mouth daily 
OXYCODONE 5 MG  TAB Take 1 tablet by mouth every 8 hours as
needed 
CEPHALEXIN 250 MG CAP TAKE 1 CAPSULE EVERY EVENING 
ATORVASTATIN 40 MG TAB Take 1 tablet by mouth daily 
GABAPENTIN 600 MG TAB TAKE 1 TABLET EVERY MORNING and take 1 and
___ tablets at night 
desonide 0.05 % Cream Apply to the affected area twice daily 
PHYTONADIONE (VITAMIN K ORAL) Take by mouth 
clotrimazole-betamethasone ___ % Topical Cream Apply to the
affected area twice daily 
venlafaxine 150 mg Oral capsule,extended release 24hr SR 24 Hr
Take 1 capsule by mouth every morning 
estradiol (ESTRACE) 0.01 % (0.1 mg/gram) Vaginal Cream Insert 1 
g
into vagina once weekly 
Omega-3 Fatty Acids-Fish Oil 396-1,200 mg Oral capsule once 
daily

SUMAtriptan 50 mg Oral tablet Take 1 tablet; may repeat once in 
2
hOURS IF NEEDED 
cholecalciferol, vitamin D3, 1,000 unit Oral capsule Take by
mouth .  
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth Q6H PRN Disp #*60 
Tablet Refills:*0
2. ALPRAZolam 1 mg PO QHS:PRN anxiety 
3. Amlodipine 5 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
6. Gabapentin 600 mg PO DAILY 
7. Gabapentin 300 mg PO QHS 
8. Hydrochlorothiazide 12.5 mg PO DAILY 
9. Levothyroxine Sodium 75 mcg PO DAILY 
10. Milk of Magnesia 30 mL PO HS:PRN constipation 
11. Naproxen 500 mg PO Q8H:PRN pain 
12. Omeprazole 20 mg PO DAILY 
13. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4H PRN Disp #*60 
Tablet Refills:*0
14. Venlafaxine XR 150 mg PO DAILY 
15. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
16. Chest XRAY PA-Lateral
ICD-9: 793.11 Solitary Pulmonary Nodule 
Dr. ___ Number: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lingular nodule 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Lung Surgery
 
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.
* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Take Tylenol  ___ mg every 6 hours in between your narcotic.  
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.

 
Followup Instructions:
___